US07582781B2
(S)-1-Chloro-3-(tert-butyldimethylsilyloxy)butan-2-one
A mixture of 5.00 g (21.52 mmol) of ethyl (S)-2-(tert-butyldimethylsilyloxy)propionate, 3.76 g (32.3 mmol) of sodium chloroacetate, 2.18 g (21.5 mmol) of triethylamine, and 50 mL of THF was cooled in ice, and 37 mL (64.6 mmol) of a 1.75 M solution of tert-butylmagnesium chloride was added dropwise thereto over a period of 1 hour. After the completion of the dropwise addition, reaction was performed at 0° C. for another 3 hours, and 6 M hydrochloric acid (about 20 mL) was added to the reaction solution to adjust the pH to 6.0. Subsequently, stirring was performed at 25° C. for 2 hours. A product was extracted with ethyl acetate (100 mL×2). The resulting organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain 5.01 g of the title compound as a colorless oil (yield: 98%). 1H-NMR (400 MHz, CDCl3) δ: 0.10 (s, 6H), 0.92 (s, 9H), 1.24 (d, 3H, J=6.8 Hz), 4.35 (q, 1H, J=6.8 Hz), 5.50 (q, 2H, J=17.0 Hz).

reactant | ethyl (S)-2-(tert-butyldimethylsilyloxy)propionate | 21.52 mmol, 5.00 g | [Si](C)(C)(C(C)(C)C)O[C@H](C(=O)OCC)C | C11H24O3Si
reactant | sodium chloroacetate | 32.3 mmol, 3.76 g | ClCC(=O)[O-].[Na+]
reactant | triethylamine | 21.5 mmol, 2.18 g | C(C)N(CC)CC | C6H15N
reactant | tert-butylmagnesium chloride | C(C)(C)(C)[Mg]Cl
reactant | hydrochloric acid | 6 M, about 20 mL | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (S)-1-Chloro-3-(tert-butyldimethylsilyloxy)butan-2-one | 5.01 g, yield: 98% | ClCC([C@H](C)O[Si](C)(C)C(C)(C)C)=O | C10H21ClO2Si
